US05922751
3-(3-Cyclopentyloxy-4-methoxybenzyl-amino)-4-pyrazolecarboxamide
To a stirred suspension of 3-amino-4-pyrazolecarboxamide hemisulfate (0.005 mole) was added 0.14 g of potassium hydroxide (KOH), 3-cyclopentyloxy-4-methoxybenzaldehyde (0.88 g, 0.004 mole), and 95% sodium cyanoborohydride (0.33 g, 0.004 mol). Stirring was continued at room temperature for 24 hours after which KOH (0.56 g) was added and the solvent was evaporated under reduced pressure. The residue was treated with 50 ml of brine and extracted twice with 50 ml portions of ethyl acetate. The ethyl acetate was evaporated under reduced pressure and the residue was triturated with ether to give 0.4g of the crude title compound Crystallization from 15 ml of acetone gave 0.25 g (15%) of the pure title compound, mp 128-130° C.

reactant | 3-amino-4-pyrazolecarboxamide hemisulfate | 0.005 mole | S(=O)(=O)(O)O.NC1=NNC=C1C(=O)N.NC1=NNC=C1C(=O)N
reactant | potassium hydroxide | 0.14 g | [OH-].[K+]
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.004 mole, 0.88 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | sodium cyanoborohydride | 0.004 mol, 0.33 g | C(#N)[BH3-].[Na+]
reactant | KOH | 0.56 g | [OH-].[K+]
product | 3-(3-Cyclopentyloxy-4-methoxybenzyl-amino)-4-pyrazolecarboxamide | 0.25 g, 15% | C1(CCCC1)OC=1C=C(CNC2=NNC=C2C(=O)N)C=CC1OC | C17H22N4O3
